US08071774B2
d) 4-(3-Hydroxypropyl)-4-(1H-imidazol-4-yl)-7-methoxychroman-2-one
A solution of 1 mmol of 4-(1-benzyl-1H-imidazol-4-yl)-4-(3-benzyloxypropyl)-7-methoxychroman-2-one in 15 ml of methanol and 2 ml of conc HCl is hydrogenated in the presence of 100 mg of 10% Pd/C at 15° C. for 10 hours. The reaction mixture is subjected to clarifying filtration and the filtrate is evaporated. The crude title compound is identified on the basis of the Rf value and reacted further without further purification.

reactant | 4-(1-benzyl-1H-imidazol-4-yl)-4-(3-benzyloxypropyl)-7-methoxychroman-2-one | 1 mmol | C(C1=CC=CC=C1)N1C=NC(=C1)C1(CC(OC2=CC(=CC=C12)OC)=O)CCCOCC1=CC=CC=C1 | C30H30N2O4
solvent | methanol | 15 ml | CO | CH4O
solvent | HCl | 2 ml | Cl | ClH
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-(3-Hydroxypropyl)-4-(1H-imidazol-4-yl)-7-methoxychroman-2-one | OCCCC1(CC(OC2=CC(=CC=C12)OC)=O)C=1N=CNC1 | C16H18N2O4
